US04761410
A solution of benzhydryl 7-[2-(2-tritylaminothiazol-4-yl)-2-difluoromethoxyiminoacetamido]-3-iodomethyl-3-cephem-4-carboxylate-1-oxide (syn isomer) (1.97 g) and N-methylpyrrolidine (204 mg) in tetrahydrofuran (10 ml) was stirred for 40 minutes at 0°-5° C. and then diisopropyl ether was added thereto. The resultant precipitates were collected by filtration, washed with diisopropyl ether and air-dried to give benzhydryl 7-[2-(2-tritylaminothiazol-4-yl)-2-difluoromethoxyiminoacetamido]-3-(1-methyl-1-pyrrolidiniomethyl)-3-cephem-4-carboxylate-1-oxide iodide (syn isomer) (2.12 g).

reactant | benzhydryl 7-[2-(2-tritylaminothiazol-4-yl)-2-difluoromethoxyiminoacetamido]-3-iodomethyl-3-cephem-4-carboxylate-1-oxide | 1.97 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2=O)CI)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOC(F)F | C46H36F2IN5O6S2
reactant | N-methylpyrrolidine | 204 mg | CN1CCCC1 | C5H11N
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | benzhydryl 7-[2-(2-tritylaminothiazol-4-yl)-2-difluoromethoxyiminoacetamido]-3-(1-methyl-1-pyrrolidiniomethyl)-3-cephem-4-carboxylate-1-oxide iodide | 2.12 g | [I-].C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2=O)C([NH+]2CCCC2)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOC(F)F | InChI=1S/C51H46F2N6O6S2.HI/c1-33(58-29-17-18-30-58)39-32-67(63)47-42(46(61)59(47)43(39)48(62)64-44(34-19-7-2-8-20-34)35-21-9-3-10-22-35)55-45(60)41(57-65-49(52)53)40-31-66-50(54-40)56-51(36-23-11-4-12-24-36,37-25-13-5-14-26-37)38-27-15-6-16-28-38;/h2-16,19-28,31,33,42,44,47,49H,17-18,29-30,32H2,1H3,(H,54,56)(H,55,60);1H/t33?,42?,47-,67?;/m1./s1
